US06355653B1
A suspension of 211 g (0.80 mol) 2-(phenylsulfonyl)-ethanimidic acid ethyl ester hydrochloride in 2 l chloroform was treated with 801 ml 1N aqueous sodium hydoxide. 350 ml of a saturated aqueous sodiumbicarbonate solution was added and the mixture was extracted with chloroform. The extracts were combined and dried with sodium sulfate and the solvents were distilled off under reduced pressure. The resulting oil was dissolved in 450 ml ethanol and the solution was added to a suspension of 44.6 g (0.82 mol) sodiummethylate and 187 g (0.80 mol) methyl aminomethanehydrazonothioate hydroiodide. After 75 minutes at room temperature 4.8 l of a 3/1 water/saturated aqueous sodiumbicarbonate solution was added and the mixture was extracted with chloroform. The organic phase was dried with sodiumsulfate and the solvents were evaporated. Recrystallisation from 1.81 ethanol gave 121 g (53%) 1-[[1-amino-2-(phenylsulfonyl)ethylidene]amino]-2-methyl-2-thiopseudourea (or tautomer), MS m/e (%): 287 (M+H+, 100), 270 (28).

reactant | 2-(phenylsulfonyl)-ethanimidic acid ethyl ester hydrochloride | 0.80 mol, 211 g | Cl.C(C)OC(CS(=O)(=O)C1=CC=CC=C1)=N
reactant | sodium hydoxide | 1N, 801 ml | [OH-].[Na+]
reactant | sodiumbicarbonate | 350 ml | C([O-])(O)=O.[Na+]
reactant | sodiummethylate | 0.82 mol, 44.6 g | C[O-].[Na+]
reactant | methyl aminomethanehydrazonothioate hydroiodide | 0.80 mol, 187 g | I.NC(=NN)SC
solvent | chloroform | 2 l | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 1-[[1-amino-2-(phenylsulfonyl)ethylidene]amino]-2-methyl-2-thiopseudourea | 121 g, 53% | NC(CS(=O)(=O)C1=CC=CC=C1)=NNC(SC)=N | C10H14N4O2S2
